US05302720
A mixture of benzoylisothiocyanate (4 g), 2-amino-3'-methanesulphonylbiphenyl (6.1 g) and dichloromethane (30 ml) at ambient temperature for two hours gave N-benzoyl-N'-(3'-methanesulphonyl-2-biphenylyl)thiourea (m.p. 179°-180° C.).

reactant | benzoylisothiocyanate | 4 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 2-amino-3'-methanesulphonylbiphenyl | 6.1 g | NC1=C(C=CC=C1)C1=CC(=CC=C1)S(=O)(=O)C | C13H13NO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-benzoyl-N'-(3'-methanesulphonyl-2-biphenylyl)thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC=C1)C1=CC(=CC=C1)S(=O)(=O)C | C21H18N2O3S2
